US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (30.0 mg, 0.0730 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with 4-piperidine methanol (84 mg, 0.729 mmol), acetic acid (0.168 mL, 2.93 mmol) and sodium triacetoxyborohydride (54 mg, 0.26 mmol). The reaction mixture was added with 1 mol/L hydrochloric acid and ethyl acetate, followed by extracting with 1 mol/L hydrochloric acid. The aqueous layer was added with sodium carbonate to adjust the pH to 9. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-[4-(hydroxymethyl)piperidinomethyl]indol-2-yl]isoindolinone (39.7 mg).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0730 mmol, 30.0 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | 4-piperidine methanol | 0.729 mmol, 84 mg | N1CCC(CC1)CO | C6H13NO
reactant | acetic acid | 2.93 mmol, 0.168 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.26 mmol, 54 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-[4-(hydroxymethyl)piperidinomethyl]indol-2-yl]isoindolinone | 39.7 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCC(CC1)CO)C(=O)OC(C)(C)C)=O | C28H32ClN3O4
